US07829585B2
C-(2-(4-fluoro-benzyl)-benzofuran-5-yl)-methylamine
To a mixed solution of 2-(2-(4-fluoro-benzyl)-benzofuran-5-ylmethyl)-isoindole-1,3-dione (81 mg, 0.21 mmol) described in Production Example 76-1-3 in ethanol (5 mL) and tetrahydrofuran (3 mL) was added hydrazine monohydrate (52.6 mg, 1.05 mmol). This mixture was stirred for 3 hours while heating under reflux. After allowing the reaction mixture to cool on standing, saturated aqueous sodium bicarbonate solution was poured thereinto followed by extraction with ethyl acetate. The organic layer was separated followed by washing with sat. NaCl, drying over anhydrous magnesium sulfate and concentrating under a reduced pressure to obtain the title compound (42 mg, 78%).

reactant | 2-(2-(4-fluoro-benzyl)-benzofuran-5-ylmethyl)-isoindole-1,3-dione | 0.21 mmol, 81 mg | FC1=CC=C(CC=2OC3=C(C2)C=C(C=C3)CN3C(C2=CC=CC=C2C3=O)=O)C=C1 | C24H16FNO3
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | hydrazine monohydrate | 1.05 mmol, 52.6 mg | O.NN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | C-(2-(4-fluoro-benzyl)-benzofuran-5-yl)-methylamine | 42 mg, 78% | FC1=CC=C(CC=2OC3=C(C2)C=C(C=C3)CN)C=C1 | C16H14FNO
